data/oMe_Silver.jsonl
{"reaction_id": "NG-008_1-C=C_2-c1ccc(OC)cc1_3-C(C)(C)C","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(C=C)(=O)(c1ccc(OC)cc1)","C(C(C)(C)C)(=O)OO"],"products_smiles": ["C(C=C)(=O)Oc1ccc(OC)cc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C=C)(=[OH+])c1ccc(OC)cc1","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C=C)([OH])(OOC(=O)C(C)(C)C)c1ccc(OC)cc1","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C=C)(=[OH+])Oc1ccc(OC)cc1","rationale": "A 1,2-shift occurs from the more migratory c1ccc(OC)cc1 group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C=C)(=O)Oc1ccc(OC)cc1","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
{"reaction_id": "NR-240_1-c1ccc(C(F)(F)F)cc1_2-C(=O)N(C)C_3-C(C)C_4-CCC(C)C_5-CC=C","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["c1ccc(C(F)(F)F)cc1C(=O)C(C(=O)N(C)C)[N+](C(C)C)(CCC(C)C)CC=C","[Li]N(C(C)C)C(C)C"],"products_smiles": ["c1ccc(C(F)(F)F)cc1C(=O)C(C(=O)N(C)C)(CC=C)N(C(C)C)(CCC(C)C)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(C(F)(F)F)cc1C([O-])=C(C(=O)N(C)C)[N+](C(C)C)(CCC(C)C)CC=C","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "c1ccc(C(F)(F)F)cc1C(=O)C(C(=O)N(C)C)(CC=C)N(C(C)C)(CCC(C)C)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
{"reaction_id": "NR-033_1-OC_2-C_3-OCC_4-C#N_5-c1cnccc1_6-C(C)C_7-F","name": "Buchner Ring Expansion","level": "medium","reactants_smiles": ["N#[N+][CH-]C(=O)OC","c1(C)c(OCC)c(C#N)c(c1cnccc1)c(C(C)C)c1(F)"],"products_smiles": ["[CH](C(=O)OC)1C(C)=C(OCC)C(C#N)=C(c1cnccc1)C(C(C)C)=C1F"],"conditions": "heat/Metal","mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH]C(=O)OC","step_weight": 0,"rationale": "Heating with metal catalyst promotes nitrogen extrusion from the diazo group, forming a carbene stabilized by adjacent carbonyl resonance."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OC)1C(C)2C(OCC)=C(C#N)C(c1cnccc1)=C(C(C)C)C2(F)1","step_weight": 0,"rationale": "The electrophilic carbene adds to the electron-rich aromatic π-system, favored by carbene’s high reactivity and aromatic nucleophilicity."},{"step": 3,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "[CH](C(=O)OC)1C(C)=C(OCC)C(C#N)=C(c1cnccc1)C(C(C)C)=C1F","step_weight": 0,"rationale": "The strained bicyclic intermediate undergoes thermally allowed electrocyclic ring expansion to a more stable conjugated seven-membered ring."}],"description": "Under thermal and metal catalysis, the diazo ketone loses nitrogen to form a reactive carbene, which adds to the aromatic ring. The resulting bicyclic intermediate undergoes a pericyclic ring expansion, yielding the seven-membered ring product characteristic of the Buchner reaction."}
